US04187310
α-(1,2-Dihydro-2-oxo-quinol-4-yl)propionic acid (15 g.) was added in portions to stirred fuming nitric acid cooled to 5° C. The rate of addition was such that the reaction temperature remained between 5° and 10° C. After the addition was complete, the mixture was stirred at ambient temperature for 40 minutes and was then poured into water (1.2 l.). The resultant solid was separated by filtration, washed with water and dried in vacuo to give α-(6-nitro-1,2-dihydro-2-oxo-quinol-4-yl)propionic acid as a white solid (90% yield), with m.p. 276°-278° C. (decomposition).

reactant | α-(1,2-Dihydro-2-oxo-quinol-4-yl)propionic acid | 15 g | O=C1NC2=CC=CC=C2C(=C1)C(C(=O)O)C | C12H11NO3
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | water | 1.2 l | O | H2O
product | α-(6-nitro-1,2-dihydro-2-oxo-quinol-4-yl)propionic acid | 90% yield | [N+](=O)([O-])C=1C=C2C(=CC(NC2=CC1)=O)C(C(=O)O)C | C12H10N2O5
